US05998433
c) Synthesis of 2-dimethylaminomethyl-5-(6-phenylhexyl)-6,7-dihydro-5H-furo[3,2-c]pyridin-4-one hydrochloride
2-Dimethylaminomethyl-5-(6-phenylhexyl)-6,7-dihydro-5H-furo[3,2-c]pyridin-4-one 0.159 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. This mixture was concentrated; the resulting solid was washed with diethyl ether to yield the desired product.

reactant | 2-Dimethylaminomethyl-5-(6-phenylhexyl)-6,7-dihydro-5H-furo[3,2-c]pyridin-4-one | 0.159 g | CN(C)CC1=CC=2C(N(CCC2O1)CCCCCCC1=CC=CC=C1)=O | C22H30N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 2-dimethylaminomethyl-5-(6-phenylhexyl)-6,7-dihydro-5H-furo[3,2-c]pyridin-4-one hydrochloride | Cl.CN(C)CC1=CC=2C(N(CCC2O1)CCCCCCC1=CC=CC=C1)=O | InChI=1S/C22H30N2O2.ClH/c1-23(2)17-19-16-20-21(26-19)13-15-24(22(20)25)14-9-4-3-6-10-18-11-7-5-8-12-18;/h5,7-8,11-12,16H,3-4,6,9-10,13-15,17H2,1-2H3;1H
